data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3373,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=CO[C:2](S(=O)(=O)O)([H:3])[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,8535,"C[C:1](C)=[CH:2]C1=CC=CC=C1.[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2728,"CC1(C)CC(O)C[C:1](=[CH2:2])[CH:3]=[C:4]([OH:5])C1.O=C(O)C(=O)[O:6][H:7]|(5, 4);((4, 3), 1);((1, 2), 7);((7, 6), 6)"
train,pmechdb_split_0,0,5959,"C1=CC=C([C:1]2(C3=CC=CC=C3)CCCCC[C:2]2=[N:3][OH2+:4])C=C1.[Cl-]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2434,"CCCCCCCC(OC(=O)C(COCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C(C)[CH:1]=[O+:2][B-:3]1([CH2:4][CH:5]=[CH:6]C)OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2441,"CC1=CC2=C(C=C1)[N:1]=C(O)CCC2C1=CC=CC=C1.O=P(O)(O)OP(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4110,"CO.COC(=O)CCC1=C(C)NC(C(OC)[O:1]C)=C1C.O.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1033,"CCOP(C)(C)(C)N(NC(=O)OC)C(OC)=[O:1].[N-]=[N+]=[N:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5348,"CC(C)C=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9338,"[O-]CC=C[C:1]([O][AlH2-:2][H:3])=[O:4]|((2, 3), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5906,"CCC1CC[C:1](C)=[CH:2]1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,770,"CO[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1Br.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,250,"CCCCC(O)C(OC1=CC=CC=C1)C(=O)[O:1][H:2].CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2135,"COC1=C2OC3C45CCN(CC6CC6)C(CC(=C24)C=C1)C5(O)CC[C:1]3([NH:2]N)[OH:3].O.OCCOCCO|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3072,"CCCCCCN1CCC23C4=C5C=CC(OC)=C4OC2C(=[N+:1](N)[H:2])CCC3(O)C1C5.O.OCCOCCO.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5919,"C[S:1][Cl:2].C[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1604,"CC#CCO[Si:1](C)(C)C.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,7074,"C=C1CCC2(OCOCCOC)C(=CCC3(C)C(O[Si](C)(C)C(C)(C)C)CCC23)C=C1C(OC(C)=O)C(OC(C)=O)[CH:1]([H:2])[O:3][I+:4]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)O.CC(=O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8907,"CO[C:1](O)=[O:2].C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4790,"CC(C)CC1CCC2C3CC=C4C(C)(CC[C:1](=[O+:2][Al-]([O]C(C)C)([O]C(C)C)[O]C(C)C)[CH:3]4[H:4])C3CCC12C.CC(C)O.CC(C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3475,"CC(C)(O)C[NH2:1].[O-][N+:2]([C:3]1=[C:4](Cl)C2=C(C=CC=C2)N=C1Cl)=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,9936,"O=C(O[C:1]1=[CH:2]C=CC=C1)C1=CC=CC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6206,"C=C[CH+:1]C.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,8728,"C[CH:1]1[N:2](C)CCC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7975,"CCCC(C)C(C)C[O+:1](COCCC1CCCC1)[H:2].CCCC(C)C(C)C[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5794,"Br[C:1](Br)(Br)[H:2].CC(C)(C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1138,"CC12CCCC=C1C=C([N:1]1CCCC1)CC2.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2396,"CC1(C)C2C[CH2:1][C:2]1(C)[CH:3]([OH2+:4])C2.O|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9369,"CC(C)OC1=C(C(=O)[O-:1])C=CC=C1C1=CC=CC=C1.C[CH:2](C)[Br:3].[Br-].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2579,"CC[N:1]=[CH:2]C.[H:3][AlH3-:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6151,"C[Si](C)(C)C[CH:1]=[CH:2]CCC[CH2+:3]|((1, 2), 3)"
train,pmechdb_split_0,0,7704,"CCC[OH:1].Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3414,"COC(=O)C12CC(=O)CC[C:1]1=[N+:2](CC[C:3]1=[CH:4]C=C(OC)[C:5]([O:6]C)=[CH:7]1)C(=O)C2.O=P([O-])(O)OP(=O)(O)O|(6, 5);((5, 7), 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7928,"C1CCOC1.CC(=O)[O-].OCC[O+:1]=[C:2]1CCC(OCC2=CC=CC=C2)CC1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6109,"CC(=O)CCC=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8148,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC12CC[C:1](=[OH+:2])[C:3](C)([H:4])C1(O)CCCC2=O.NC(CC1=CC=CC=C1)C(=O)O.[NH3+]C(CC1=CC=CC=C1)C(=O)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4009,"CC1=CC(C(C)(C)C)=NC(C(C)(C)C)=C1.COC(=O)C1C2=C(CCN3CCC1C([S+](C)O[C:1](C(F)(F)F)([O-:2])[O:3]C(=O)C(F)(F)F)C3=O)C1=C(C=CC=C1)N2C(=O)OC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5322,"C=C(C)C=C(OC)O[Si](C)(C)C.CCCC[O][Ti:1]([O]CCCC)([O]CCCC)[O]CCCC.IC=CC=CC=[O:2]|(2, 1)"
train,pmechdb_split_0,0,4498,"C[C:1](S)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,372,"CC(=O)OC(C)([O-])[O+:1](N=C(C)C)[H:2].CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9002,"CCOC(=O)N[N:1](C(=O)OCC)[P:2](OC1CCC2(C)CC1(OC)CCC1C2CC1(C)C)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|((2, 1), 1)"
train,pmechdb_split_0,0,8158,"CC1=CC=C(S(=O)(=O)[O-])C=C1.C[C:1](C)=[O+:2]C.OCC[OH:3]|(3, 1);((1, 2), 2)"
